US07709509B2
560 mg of 5-Chloromethyl-4-methyl-2-(4-trifluoromethyl-phenyl)-thiazole were dissolved in 10 ml dimethylformamide. 1.2 g of cesium carbonate and 395 mg 2-Fluoro-4-hydroxybenzonitrile was added and the mixture was stirred at room temperature for three hours. Then 50 ml of methyl-tert-butylether was added, the mixture washed with brine and dried over MgSO4. The solvent was removed in vacuo. The resulting crude material was purified by reversed phase HPLC to obtain 153 mg of 2-Fluoro-4-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazole-5-ylmethoxy]-benzonitrile as amorphous lyophilisate.

reactant | 5-Chloromethyl-4-methyl-2-(4-trifluoromethyl-phenyl)-thiazole | 560 mg | ClCC1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)C | C12H9ClF3NS
reactant | cesium carbonate | 1.2 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-Fluoro-4-hydroxybenzonitrile | 395 mg | FC1=C(C#N)C=CC(=C1)O | C7H4FNO
reactant | methyl-tert-butylether | 50 ml | COC(C)(C)C | C5H12O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 2-Fluoro-4-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazole-5-ylmethoxy]-benzonitrile | 153 mg | FC1=C(C#N)C=CC(=C1)OCC1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)C | C19H12F4N2OS
